US05356918
(5S)-N-(2-Nitrooxyethyl)-2-oxooxazolidine-5-carboxamide (Compound No. 2-34)
0.35 ml of triethylamine and 0.22 ml of diphenylphosphoryl azide were added, whilst ice-cooling and stirring, to a suspension of 110 mg of (5S)-2-oxooxazolidine-5-carboxylic acid (prepared by a procedure similar to that described in Preparation 3) and 170 mg of N-(2-nitrooxyethyl)amine nitrate in 10 ml of dry tetrahydrofuran, and the resulting mixture was stirred at room temperature for 6 hours. At the end of this time, the solvent was removed by distillation under reduced pressure, and the residue was purified by column chromatography through silica gel, using ethyl acetate as the eluent. The pale yellow oil thus obtained was triturated with ethyl acetate, and the resulting precipitate was collected by filtration and washed, to give 79.8 mg of the title compound as a colorless powder, melting at 101°-103° C.

reactant | triethylamine | 0.35 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 0.22 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | (5S)-2-oxooxazolidine-5-carboxylic acid | 110 mg | O=C1O[C@@H](CN1)C(=O)O | C4H5NO4
reactant | N-(2-nitrooxyethyl)amine nitrate | 170 mg | [N+](=O)(O)[O-].[N+](=O)([O-])OCCN
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (5S)-N-(2-Nitrooxyethyl)-2-oxooxazolidine-5-carboxamide | 79.8 mg | [N+](=O)([O-])OCCNC(=O)[C@@H]1CNC(O1)=O | C6H9N3O6
